US07932246B2
3-Benzyl-3-azabicyclo[3.1.0]hexane-6-carbaldehyde oxime
Hydroxylamine hydrochloride (1.69 g, 22.84 mmol) and sodium acetate (2.45 g, 29.85 mmol) were added to a stirred solution of 3-benzyl-3-azabicyclo[3.1.0]hexane-6-carbaldehyde (1.60 g, 7.96 mmol) in EtOH (100 ml) at r.t. under N2. The reaction was allowed to stir for 16 h. The solvent was then removed in vacuo and the residue partitioned between DCM (100 ml) and aq. K2CO3 (100 ml). The organic layer was separated and the aqueous layer washed with DCM (100 ml). The combined organic layers were dried (MgSO4) and solvent removed in vacuo to give the title compound as a yellow oil (1.57 g, 91%-1:1 mixture of oxime isomers). LCMS purity 85%, m/z 217 [M+H]+, 1H NMR (300 MHz, d6-DMSO) δ: 1.65 (4H, m), 1.86 (1H, m), 2.29 (4H, d, J=9 Hz), 2.50 (1H, m), 2.91 (4H, dd, J=2.4, 9 Hz), 3.57 (4H, s), 6.05 (1H, d, J=9 Hz), 6.96 (1H, d, J=8.1 Hz), 7.21-7.34 (10H, m), 10.28 (1H, s), 10.59 (1H, s).

reactant | Hydroxylamine hydrochloride | 22.84 mmol, 1.69 g | Cl.NO
reactant | sodium acetate | 29.85 mmol, 2.45 g | C(C)(=O)[O-].[Na+]
reactant | 3-benzyl-3-azabicyclo[3.1.0]hexane-6-carbaldehyde | 7.96 mmol, 1.60 g | C(C1=CC=CC=C1)N1CC2C(C2C1)C=O | C13H15NO
solvent | EtOH | 100 ml | CCO | C2H6O
product | 3-Benzyl-3-azabicyclo[3.1.0]hexane-6-carbaldehyde oxime | 1.57 g, 91% | C(C1=CC=CC=C1)N1CC2C(C2C1)C=NO | C13H16N2O
